US07494992B2
Preparation 26: 3-(cyclopent-3-en-1-ylmethyl)-1,2-dihydropyridin-2-yl trifluoromethanesulfonate
To a solution of 3-(cyclopent-3-en-1-ylmethyl)pyridin-2(1H)-one (Preparation 27, 1.9 g, 10.8 mmol) in dichloromethane (50 ml) stirred at 0° C. was added trifluoromethanesulfonic anhydride (2.38 ml, 14.1 mmol) and then 2,6-lutidine (2.2 ml, 19 mmol). The reaction mixture was allowed to warm to room temperature and then stirred for 1 h. The reaction mixture was diluted with dichloromethane and washed with water (2 times), then saturated aqueous sodium hydrogen carbonate solution and then brine. The crude product was purified by flash chromatography eluting with ethyl acetate:hexane (10:90) to give the product as a colourless liquid-(3.1 g, 93%).

reactant | 3-(cyclopent-3-en-1-ylmethyl)pyridin-2(1H)-one | 10.8 mmol, 1.9 g | C1(CC=CC1)CC=1C(NC=CC1)=O | C11H13NO
reactant | trifluoromethanesulfonic anhydride | 14.1 mmol, 2.38 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-lutidine | 19 mmol, 2.2 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(cyclopent-3-en-1-ylmethyl)-1,2-dihydropyridin-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1NC=CC=C1CC1CC=CC1)(F)F | C12H14F3NO3S
